US05569655
To a solution of 2.7 ml (0.027 mol) of 10M n-butyllithium in hexane in 70 ml of ether cooled to -78° C. was added 4 g (0.027 mol) of 3-bromofuran and the mixture was stirred for 15 min. To the above cooled mixture was added 3.17 g (0.024 mol) of indanone in 10 ml of THF and the mixture was allowed to warm to room temperature, and then stirred for 20 min. To the mixture was added saturated ammonium chloride solution and the resulting mixture was extracted with ethyl acetate (3×100 ml), and the organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo to afford 5 g of crude 1-(3-furyl)-indan-1ol, as an orange oil, which was used directly in the next step.

reactant | n-butyllithium | 0.027 mol, 10M, 2.7 ml | C(CCC)[Li]
reactant | 3-bromofuran | 0.027 mol, 4 g | BrC1=COC=C1 | C4H3BrO
reactant | indanone | 0.024 mol, 3.17 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | ether | 70 ml | CCOCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(3-furyl)-indan-1ol | 5 g | O1C=C(C=C1)C1(CCC2=CC=CC=C12)O | C13H12O2
